US08686046B2
N-(cyanomethyl)decanamide (13)
General procedure F was used to couple 0.1 g (0.58 mmols) of decanoic acid and 0.065 g of amino acetonitrile. The title product was purified with flash chromatography using a solvent system of ethyl acetate and hexanes (2:3) to yield 0.104 g (0.38 mmols). 1H NMR (500 MHz, CDCl3) δ 6.09 (s, 1H), 4.18 (d, J=5.8, 2H), 2.35-2.14 (m, 2H), 1.78-1.55 (m, 2H), 1.27 (d, J=17.2, 12H), 0.87 (t, J=6.9, 3H). 13C NMR (126 MHz, CDCl3) δ 173.15, 116.12, 77.26, 77.01, 76.76, 36.06, 31.82, 29.38, 29.27, 29.23, 29.16, 27.34, 25.28, 22.63, 14.09.

reactant | decanoic acid | 0.58 mmols, 0.1 g | C(CCCCCCCCC)(=O)O | C10H20O2
reactant | amino acetonitrile | 0.065 g | NCC#N | C2H4N2
product | N-(cyanomethyl)decanamide | C(#N)CNC(CCCCCCCCC)=O | C12H22N2O
